US07919628B2
2-Methyl-2-[(1-trifluoromethanesulfonyloxy-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester (142 mg), 4-trifluoromethyl benzyl amine (119 mg) and a catalytic amount of palladium acetate and BINAP, together with cesium carbonate (277 mg) in THF (3 ml) were heated in a microwave reactor for 55 min at 80° C. The reaction mixture was diluted with ethyl acetate (60 ml), which was washed with water (25 ml) and brine (10 ml) and then dried over sodium sulfate. The solvent was removed in vacuo, and the residue was purified by silica gel chromatography. 142 mg of 2-methyl-2-{[1-(4-trifluoromethyl-benzylamino)-naphthalene-2-carbonyl]-amino}-propionic acid methyl ester was obtained as light yellow oil.

reactant | 2-Methyl-2-[(1-trifluoromethanesulfonyloxy-naphthalene-2-carbonyl)-amino]-propionic acid methyl ester | 142 mg | COC(C(C)(NC(=O)C1=C(C2=CC=CC=C2C=C1)OS(=O)(=O)C(F)(F)F)C)=O | C17H16F3NO6S
reactant | 4-trifluoromethyl benzyl amine | 119 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 277 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-methyl-2-{[1-(4-trifluoromethyl-benzylamino)-naphthalene-2-carbonyl]-amino}-propionic acid methyl ester | 142 mg | COC(C(C)(NC(=O)C1=C(C2=CC=CC=C2C=C1)NCC1=CC=C(C=C1)C(F)(F)F)C)=O | C24H23F3N2O3
